US06369075B1
7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid [1-(4-fluoro-phenyl)-ethyl]-amide
7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid (100 mg, 0.23 mmol) was combined with 1-(4-fluorophenyl)-ethylamine (32 mg, 0.23 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (53 mg, 0.27 mmol), 1-hydroxybenzotriazole (34 mg, 0.25 mmol), and triethylamine (0.13 ml, 0.92 mmol) in 1.5 ml of dichloromethane. After stirring overnight at ambient temperature, the reaction mixture was diluted with 50 ml of ethyl acetate, and the organic phase washed sequentially with water, and brine, and then dried over anhydrous magnesium sulfate, filtered and concentrated under vacuum to afford 120 mg of the title compound as a yellow solid.

reactant | 7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid | 0.23 mmol, 100 mg | FC(C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C2C=C(C=NC2=C1)C(=O)O)(F)F | C24H15F3N2O3
reactant | 1-(4-fluorophenyl)-ethylamine | 0.23 mmol, 32 mg | FC1=CC=C(C=C1)C(C)N | C8H10FN
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.27 mmol, 53 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.25 mmol, 34 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.92 mmol, 0.13 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid [1-(4-fluoro-phenyl)-ethyl]-amide | 120 mg | FC1=CC=C(C=C1)C(C)NC(=O)C=1C=NC2=CC(=CC=C2C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C32H23F4N3O2
